US03989737
7-(N-allyloxypropionimidoyl)-6-benzoyloxy-1,2,3,4,5,8,4a,8a-octahydronaphthalene-8-one
To a solution of 2-(1-allyloxyaminopropylidene)decaline-1,3-dione (2 g) in acetone (30 ml), sodium hydroxide (0.2 g) in water (1 ml) was added at room temperature and then benzoylchloride (0.7 g) was added. After stirring for 5 hours, the reaction mixture was poured into ice-water and extracted with chloroform. The extract was washed with one normal sodium hydroxide and dried over magnesium sulfate. The solvent was removed in vacuo and an oily substance (1.8 g) was obtained.

reactant | 2-(1-allyloxyaminopropylidene)decaline-1,3-dione | 2 g | C(C=C)ONC(CC)=C1C(C2CCCCC2CC1=O)=O | C16H23NO3
reactant | sodium hydroxide | 0.2 g | [OH-].[Na+]
reactant | benzoylchloride | 0.7 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | water | 1 ml | O | H2O
product | 7-(N-allyloxypropionimidoyl)-6-benzoyloxy-1,2,3,4,5,8,4a,8a-octahydronaphthalene-8-one | C(C=C)ON=C(CC)C1=C(CC2CCCCC2C1=O)OC(C1=CC=CC=C1)=O | C23H27NO4
